US07994185B2
N-{3-[2-(1,1-Dimethylethyl)-5-(2-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.20 g, 0.37 mmol) and 1-(3-aminopropyl)-2-pyrrolidinone (0.52 ml, 3.7 mmol) the title compound was obtained (0.20 g, 80% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.75 (s, 1H), 8.03 (d, J=5.1 Hz, 1H), 7.15-7.64 (m, 7H), 5.81-5.98 (m, 1H), 3.21 (t, J=6.6 Hz, 2H), 3.07-3.16 (m, 2H), 2.21 (t, J=8.0 Hz, 2H), 1.92 (quin, J=7.4 Hz, 2H), 1.66 (br. s., 2H), 1.40 (s, 9H). MS (ES+): 645 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.37 mmol, 0.20 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | 1-(3-aminopropyl)-2-pyrrolidinone | 3.7 mmol, 0.52 ml | NCCCN1C(CCC1)=O | C7H14N2O
product | N-{3-[2-(1,1-Dimethylethyl)-5-(2-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 80% yield | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)NCCCN1C(CCC1)=O | C30H31F3N6O3S2
